US08030499B2
Step 241-1: Synthesis of 5-chloro-3-(2-fluorophenyl)-3-hydroxy-1,3-dihydro-2H-indol-2-one
With 5.00 g of 5-chloroisatin and 6.92 g of 1-bromo-2-fluorobenzene as starting materials, 5.41 g of the title compound (yellow solid) was obtained by a similar method to Step 21-1.

reactant | 5-chloroisatin | 5.00 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | 1-bromo-2-fluorobenzene | 6.92 g | BrC1=C(C=CC=C1)F | C6H4BrF
product | 5-chloro-3-(2-fluorophenyl)-3-hydroxy-1,3-dihydro-2H-indol-2-one | 5.41 g | ClC=1C=C2C(C(NC2=CC1)=O)(O)C1=C(C=CC=C1)F | C14H9ClFNO2
